US06958350B2
Step 4: N-(1-benzylpiperidin-4-yl)-3-{5-[(2,4-difluorophenyl)amino]-1,3,4-oxadiazol-2-yl}propanamide
To a stirred solution of 3-{5-[(2,4-difluorophenyl)amino]-1,3,4-oxadiazol-2-yl}-N-piperidin-4-ylpropanamide (200 mg) in N-methylpyrrolidinone (4 ml) was added benzaldehyde (115 μl) and glacial acetic acid (0.04 ml). The reaction mixture was then heated at 80° C. for 1 hour before being left to cool and sodium triacetoxyborohydride (242 mg) added. The mixture was then stirred at room temperature for 8 hours before being evaporated to dryness and the residue separated into basic and non-basic components using SCX chromatography. Basic fractions were combined and evaporated to dryness. The residue was purified by RPHPLC (MeCN with NH3 buffer). Fractions containing the desired product were combined and evaporated to dryness to give the title compound. (92 mg).

reactant | 3-{5-[(2,4-difluorophenyl)amino]-1,3,4-oxadiazol-2-yl}-N-piperidin-4-ylpropanamide | 200 mg | FC1=C(C=CC(=C1)F)NC1=NN=C(O1)CCC(=O)NC1CCNCC1 | C16H19F2N5O2
reactant | benzaldehyde | 115 μl | C(C1=CC=CC=C1)=O | C7H6O
reactant | acetic acid | 0.04 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 242 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | N-methylpyrrolidinone | 4 ml | CN1C(CCC1)=O | C5H9NO
product | N-(1-benzylpiperidin-4-yl)-3-{5-[(2,4-difluorophenyl)amino]-1,3,4-oxadiazol-2-yl}propanamide | C(C1=CC=CC=C1)N1CCC(CC1)NC(CCC=1OC(=NN1)NC1=C(C=C(C=C1)F)F)=O | C23H25F2N5O2
